US07498346B2
(R)-[1-(3-Amino-1-methyl-propyl)-piperidin-4-yl]-(4-methoxy-phenyl)-(4-methyl-pyridin-3-ylmethyl)-amine (0.070 g, 0.18 mmol), EDCI (0.039 g, 0.20 mmol) and HOBT (0.027 g, 0.20 mmol) were combined in DMF (5 mL) to give a pale yellow solution. To this solution was added 2-bromo-4-methyl-nicotinic acid (0.043 g, 0.20 mmol) followed by DIPEA (38 μL, 0.22 mmol) and the resulting mixture was stirred at 25° C. for 16 h. Standard workup according to General Procedure C gave the crude product as a tan oil. Purification by column chromatography on silica gel (Et2O:MeOH:NH4OH, 89:10:1, v/v/v) afforded 2-bromo-N-((R)-3-{4-[(4-methoxy-phenyl)-(4-methyl-pyridin-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-4-methyl-nicotinamide (0.040 g, 38%) as a white foam. 1H NMR (CDCl3) δ 0.98 (d+m, 4H,), 1.07 (m, 1H), 1.57 (m, 2H), 1.84 (m, 3H), 2.13 (br t, 1H), 2.36 (s, 6H), 2.53 (br t, 1H), 2.75-2.88 (m, 3H), 3.24-3.33 (m, 2H), 3.71 (s, 3H), 3.82 (m, 1H), 3.88 (m, 2H), 6.61 (d, 2H, J=9.0 Hz), 6.69 (d, 2H, J=9.0 Hz), 6.97 (d, 1H, J=6.0 Hz), 7.03 (d, 1H, J=6.0 Hz), 7.94 (d, 1H, J=6.0 Hz), 8.25 (s, 1H), 8.30 (d, 1H, J=6.0 Hz), 8.52 (br s, 1H). 13C NMR (CDCl3) δ. ES-MS m/z 582 (M+H), 604 (M+Na). Anal. Calcd. for C30H38N5O2Br.0.25 CH2Cl2: C, 60.37; H, 6.45; N, 11.64. Found: C, 60.34; H, 6.47; N, 11.52.

reactant | (R)-[1-(3-Amino-1-methyl-propyl)-piperidin-4-yl]-(4-methoxy-phenyl)-(4-methyl-pyridin-3-ylmethyl)-amine | 0.18 mmol, 0.070 g | NCC[C@@H](C)N1CCC(CC1)N(CC=1C=NC=CC1C)C1=CC=C(C=C1)OC | C23H34N4O
reactant | EDCI | 0.20 mmol, 0.039 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.20 mmol, 0.027 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-bromo-4-methyl-nicotinic acid | 0.20 mmol, 0.043 g | BrC1=C(C(=O)O)C(=CC=N1)C | C7H6BrNO2
reactant | DIPEA | 0.22 mmol, 38 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-bromo-N-((R)-3-{4-[(4-methoxy-phenyl)-(4-methyl-pyridin-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-4-methyl-nicotinamide | 0.040 g, 38% | BrC1=C(C(=O)NCC[C@@H](C)N2CCC(CC2)N(CC=2C=NC=CC2C)C2=CC=C(C=C2)OC)C(=CC=N1)C | C30H38BrN5O2
